### PR TITLE
[Merged by Bors] - chore(RingTheory/SimpleModule): golf and generalize lifting_property

### PR DESCRIPTION
**Pull request by alreadydone**
---

Build succeeded but there's a strange post-build step error.
https://github.com/leanprover-community/mathlib4/actions/runs/16527173966/job/46744293147?pr=27482

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by smorel394** [comment]
I originally had the more general form of `lifting_property` in my project (with a complicated proof), then decided against it because `Module.Projective` only requires the less general form. (There's an asymmetry between `Module.Projective` and `Module.Injective`.)
Still, I think it's fine to have the general form. I don't understand why you get that strange error in CI though.

File: Mathlib/RingTheory/SimpleModule/Basic.lean [hunk 1]
```diff
@@ -190,19 +190,16 @@ theorem extension_property {P} [AddCommGroup P] [Module R P] (f : N →ₗ[R] M)
...
-  ext x
-  dsimp
-  obtain ⟨z, rfl⟩ := hf x
-  rw [← LinearMap.sub_mem_ker_iff, ← Submodule.Quotient.mk_eq_zero, ← Submodule.mkQ_apply,
-    map_sub, Submodule.mkQ_apply, Submodule.mkQ_apply, Submodule.mk_quotientEquivOfIsCompl_apply,
-    ← LinearMap.quotKerEquivOfSurjective_apply_mk f hf, LinearEquiv.symm_apply_apply, sub_self]
+  let e := (Submodule.quotientEquivOfIsCompl _ m compl).symm ≪≫ₗ f.quotKerEquivOfSurjective hf
+  refine ⟨Submodule.subtype _ ∘ₗ e.symm.toLinearMap ∘ₗ g, LinearMap.ext fun x ↦ ?_⟩
+  obtain ⟨z, eq⟩ := e.surjective (g x)
+  simp [← eq]; rfl
```
Comment (Vierkantor) [inline Mathlib/RingTheory/SimpleModule/Basic.lean]: `simp; rfl` is a bit ugly, especially since the `rfl` does quite a lot here (unfolding `e` and simplifying all of the compositions). How about instead:

```suggestion
  simp only [LinearMap.comp_apply, ← eq, LinearEquiv.coe_coe, e.symm_apply_apply]
  simp [e]
```

(`e.symm_apply_apply` is the lemma that doesn't fire if we unfold `e` too early on.)

File: Mathlib/RingTheory/SimpleModule/InjectiveProjective.lean [hunk 2]
```diff
@@ -16,12 +16,12 @@ namespace Module
...
 
-theorem injective_of_semisimple_ring : Module.Injective R M where
+theorem injective_of_isSemisimpleRing : Module.Injective R M where
   out X Y _ _ _ _ f hf g :=
     let ⟨h, comp⟩ := IsSemisimpleModule.extension_property f hf g
     ⟨h, fun _ ↦ by rw [← comp, LinearMap.comp_apply]⟩
 
-theorem projective_of_semisimple_ring : Module.Projective R M :=
-  Module.Projective.of_lifting_property'' IsSemisimpleModule.lifting_property
+theorem surjective_of_isSemisimpleRing : Module.Projective R M :=
```
Comment (Vierkantor) [inline Mathlib/RingTheory/SimpleModule/InjectiveProjective.lean]: Shouldn't this say `projective`?
```suggestion
theorem projective_of_isSemisimpleRing : Module.Projective R M :=
```

**Review by Vierkantor — APPROVED** [review]
Sorry for the wait! It's a nice generalization, and a good rename. It's been such a time that I am inclined to add the deprecations anyway, but I'll leave that up to you since there are no uses elsewhere in Mathlib yet.

bors d+

**Comment by alreadydone** [comment]
Thanks 🎉 
bors r+
